US03978044
Using the procedure of step A at example 1 and starting from 79.6 g of 4-phenyl 4-cyanocyclohexanone and 56.8 g pyrrolidine there is obtained with a theoretical yield 4-cyano 4-phenyl 1-pyrrolidino cyclohex-1-ene.

reactant | 4-phenyl 4-cyanocyclohexanone | 79.6 g | C1(=CC=CC=C1)C1(CCC(CC1)=O)C#N | C13H13NO
reactant | pyrrolidine | 56.8 g | N1CCCC1 | C4H9N
product | 4-cyano 4-phenyl 1-pyrrolidino cyclohex-1-ene | C(#N)C1(CC=C(CC1)N1CCCC1)C1=CC=CC=C1 | C17H20N2
